US07947738B2
(12-a) 2-Isobutylpent-4-en-1-ol
2-isobutyl-4-pentenoic acid (J. Am. Chem. Soc. 115, 1993, 8669) (13 g, 83 mmol) was dissolved in tetrahydrofuran (80 mL), and the solution was added dropwise to a tetrahydrofuran (80 mL) mixed solution of lithium aluminum hydride (3.4 g, 90 mmol) under ice cooling. The mixture was stirred at this temperature for 1 hour. Then, water (3.4 mL), a 15% aqueous sodium hydroxide solution (3.4 mL), and water (10.2 mL) were added thereto in this order, and the mixture was stirred overnight. After removal of insoluble matter, the filtrate was concentrated to obtain the compound of interest as an oil substance (4.9 g, 42%).

reactant | 2-isobutyl-4-pentenoic acid | 83 mmol, 13 g | C(C(C)C)C(C(=O)O)CC=C | C9H16O2
reactant | lithium aluminum hydride | 90 mmol, 3.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.4 mL | O | H2O
reactant | sodium hydroxide | 3.4 mL | [OH-].[Na+]
reactant | water | 10.2 mL | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-Isobutylpent-4-en-1-ol | C(C(C)C)C(CO)CC=C | C9H18O
